US05130119
(d) 5-Fluoro-2-hydroxy-3-(trifluoromethyl)-benzoic acid
4.28 g (12.3 mmol) of 2-benzyloxy-5-fluoro-3-(trifluoromethyl)-benzoic acid ethyl ester is dissolved in 20 ml of dioxane, 7.5 ml (I5 mmol) of 2N sodium hydroxide solution is added and it is stirred for 1 hour at 50° C. The reaction solution is then mixed with 200 mg of palladium-carbon (10%) and hydrogenated for 1 hour at normal temperature. The catalyst is then filtered off, the alkaline filtrate is mixed with 30 ml of water and extracted with dichloromethane. The aqueous phase is acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract is dried on magnesium sulfate, filtered and evaporated to dryness. The crystalline residue is dried in a vacuum at 50° C. for 24 hours. 2.27 g (10.15 mmol)=82.5% of the theoretical yield is obtained. Melting range 76-83° C.

reactant | 2-benzyloxy-5-fluoro-3-(trifluoromethyl)-benzoic acid ethyl ester | 12.3 mmol, 4.28 g | C(C)OC(C1=C(C(=CC(=C1)F)C(F)(F)F)OCC1=CC=CC=C1)=O | C17H14F4O3
reactant | sodium hydroxide | 2N, 7.5 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | 5-Fluoro-2-hydroxy-3-(trifluoromethyl)-benzoic acid | FC=1C=C(C(=C(C(=O)O)C1)O)C(F)(F)F | C8H4F4O3
